US04308391
To a cold (5° C.) vigorously stirred mixture of 121.87 g (0.936 mole) of ethyl acetoacetate, 314 ml. of benzene and 626 ml. of water was added 41.25 ml. of 33% sodium hydroxide. To the above mixture was added simultaneously, in two dropping funnels, 177.0 g (1.01 mole) of p-chlorobenzoyl chloride and 188.8 ml. of 33% sodium hydroxide in 2 hours. The reaction mixture became pasty. The reaction mixture was heated at 35° C. for 1 hour, cooled and filtered to give 170.0 g of sodium salt of ethyl 2-benzoylacetoacetate. Part (150 g) of this salt was added to a mixture of 39.0 g (0.729 mole) of ammonium chloride and 78 ml. of concentrated ammonium hydroxide in 780 ml. of water. The mixture was stirred at 40°-50° C. for 3 hours and cooled in an ice bath. The precipitate was filtered to give 115.5 g of yellow solid which was Kugelrohr distilled to give 76.0 g (38% based on ethyl acetoacetate) of crude ethyl p-chlorobenzoylacetate. A mixture of 40.0 g (0.175 mole) of crude ethyl p-chlorobenzoylacetate, 24.2 g (0.18 mole) of sulfuryl chloride and some chloroform was held at reflux for 6 hours, cooled and concentrated to give 49.0 g of crude ethyl 2-chloro-p-chlorobenzoylacetate. A mixture of 46.0 g (0.174 mole) of crude ethyl 2-chloro-p-chlorobenzoylacetate, 13.25 g (0.174 mole) of thiourea, and 174 ml. of ethanol was held at reflux for 2 hours and cooled. The precipitate was filtered and neutralized with saturated sodium bicarbonate. The insoluble material was filtered to give 37.0 g (80%) of ethyl 2-amino-4-p-chlorophenyl-5-thiazolecarboxylate, m.p. 198°-200° C.

reactant | ethyl 2-chloro-p-chlorobenzoylacetate | 0.174 mole, 46.0 g | ClC1=C(C(=O)CC(=O)OCC)C=CC(=C1)Cl | C11H10Cl2O3
reactant | thiourea | 0.174 mole, 13.25 g | NC(=S)N | CH4N2S
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-amino-4-p-chlorophenyl-5-thiazolecarboxylate | 37.0 g, 80% | NC=1SC(=C(N1)C1=CC=C(C=C1)Cl)C(=O)OCC | C12H11ClN2O2S
